*********************************************************************

.subckt mec2elec in+ in- omega_mec i_t r=0.1 l=1u KEmf=1000
r1 in+ 1 {r}
l1 1 2 {l}
*shunt para medir corrente
v1 2 3 0.0 
e1 3 in- vol = {KEmf * v(omega_mec)}
e3 i_t 0 vol = i(v1)
.ends mec2elec

*********************************************************************

.subckt elec2mec i_t torque_mec KTorque=1
e1 torque_mec 0 vol = {KTorque * v(i_t)}
.ends elec2mec

*********************************************************************

*[r]=ohms
*[l]=henry
*[KEmf]=rpm / volt
*[KTorque]=(newton x metro) / ampere
*[KFriction]=newton/rpm

.subckt dcmotor in+ in- omega_mec theta_mec torque_load inertia_load r=0.1 l=1u KEmf=1000 KTorque=1 KFriction=0 JMotor=1

*x1 mec2elec in+ in- omega_mec i_t r={r} l={l} KEmf={KEmf}
r101 in+ 101 {r}
l101 101 102 {l}
*shunt para medir corrente
v101 102 103 0.0
e101 103 in- vol = {KEmf * v(omega_mec)}
e102 i_t 0 vol = i(v101)

*x2 elec2mec i_t torque_mec KTorque={KTorque}
e201 Torque_mec 0 vol = {KTorque * v(i_t)}

e1 torque_res 0 vol = {v(torque_mec) - v(torque_load) - v(torque_friction)}
e2 torque_friction 0 vol = {KFriction * v(omega_mec)}
*alpha = v(torque_res / (JMotor + v(inertia_load))
g1 0 omega_mec cur = {v(torque_res) / (JMotor + v(inertia_load))}
c1 omega_mec 0 1 ic=0
g2 0 theta_mec cur = {v(omega_mec)}
c2 theta_mec 0 1 ic=0
.ends dcmotor

*********************************************************************

.end
